US09340506B2
Methyl 2-(6-cyclopentylsulfanyl-3-pyridyl)-2-oxo-acetate
Under anhydrous condition n-BuLi (1.6 M solution in hexane, 5.08 mL, 8.13 mmol) was added to stirred solution of 5-bromo-2-cyclopentylsulfanyl-pyridine (2.0 g, 8.13 mmol) in 15 mL dry diethyl ether at −78° C. and stirred for 20 minutes. A solution of dimethyl oxalate (1.09 g, 9.30 mmol) in 15 mL of dry diethyl ether was added dropwise with the help of syringe and resulted reaction mixture was allowed to warm slowly to 0° C. within 1 hr. Reaction mixture was poured on aq. saturated solution of NH4Cl (25 mL), mixture was then extracted with (3×50 mL) diethyl ether; organic layer was washed with brine, dried over anhydrous sodium sulfate, sodium sulfate was filtered and washed with diethyl ether and solvent was removed under reduced pressure. The crude material was purified by silica-gel column chromatography (3 to 5% ethyl acetate in hexane) to afford pure compound (0.5 g).

reactant | n-BuLi | 8.13 mmol, 1.6 M, 5.08 mL | [Li]CCCC
reactant | 5-bromo-2-cyclopentylsulfanyl-pyridine | 8.13 mmol, 2.0 g | BrC=1C=CC(=NC1)SC1CCCC1 | C10H12BrNS
reactant | dimethyl oxalate | 9.30 mmol, 1.09 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | Methyl 2-(6-cyclopentylsulfanyl-3-pyridyl)-2-oxo-acetate | 0.5 g | C1(CCCC1)SC1=CC=C(C=N1)C(C(=O)OC)=O | C13H15NO3S
